US05569768
2-Cyanobiphenyl
In a separate container, nickel acetylacetonate (0.036 moles, 9.25 g of 5% molar ratio) and triphenylphosphine (0.145 moles, 38.0 g) were dissolved in 200 ml THF and cooled to -30° C. Diisobutylaluminum hydride (36.25 ml of 1M solution in THF) was added. 2-Bromobenzonitrile (0.725 moles, 131.95 g) was added to the solution. The solution was cooled to -50° C. The zinc chloride/phenyl lithium solution was added while maintaining the temperature below -50° C. The temperature was allowed to slowly warm to room temperature. The mixture was partitioned between ether and 250 ml 1N HCl. The organic phase was washed with water, dried over sodium sulfate and concentrated to a reddish oil. 2-Cyanobiphenyl was purified by chromatography over silica gel columns eluted with hexane. (MS)

reactant | triphenylphosphine | 0.145 moles, 38.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisobutylaluminum hydride | 1M, 36.25 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-Bromobenzonitrile | 0.725 moles, 131.95 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | nickel acetylacetonate | 0.036 moles, 9.25 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
catalyst | zinc chloride phenyl lithium | [Cl-].[Zn+2].[Cl-].C1(=CC=CC=C1)[Li]
product | 2-Cyanobiphenyl | C(#N)C1=C(C=CC=C1)C1=CC=CC=C1 | C13H9N
